US07781478B2
A solution of 2-(4-aminophenyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile, prepared by example 1Ga step B, (0.82 mg, 2.82 mmol), in pyridine (10 mL) is treated dropwise with chloroethyl sulfonylchloride (0.38 mL, 3.66 mmol) at room temperature. After stirring for 4 h, the reaction mixture is quenched with ice-water and enough 6N HCl is added until the pH is lowered to 2. The suspension is extracted with hot EtOAc (3×). The organic phases are then washed sequentially with 1N HCl, H2O and saturated NaCl and dried and concentrated to give ethenesulfonic acid [4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-phenyl]amide as a pale orange solid which is used directly in the next step without further purification.

reactant | 2-(4-aminophenyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC)CC | C18H17N3O
reactant | chloroethyl sulfonylchloride | 3.66 mmol, 0.38 mL | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | ethenesulfonic acid [4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-phenyl]amide | C(#N)C1=C(N(C2=CC(=CC=C12)OC)CC)C1=CC=C(C=C1)NS(=O)(=O)C=C | C20H19N3O3S
